US04045432
A. 1,1a,6,10b-Tetrahydrodibenzo[a,e]cyclopropa[c]cyclohepten-6-one Oxime
A solution of 6.6 g (0.03 mole) of 1,1a,6,10b-tetrahydrodibenzo[a,e]cyclopropa[c]cyclohepten-6-one, 8.4 g (0.12 mole) of hydroxylamine hydrochloride in 120 ml of pyridine was held at reflux for 18.5 hrs. The solvent was evaporated under reduced pressure and the residue was dissolved with a mixture of water and methylene chloride. The layers were separated and the organic layer was in turn washed with 10% hydrochloric acid, and saturated brine, dried and solvent evaporated to give 7.4 g of crude 1,1a,6,10b-tetrahydrodibenzo[a,e]cyclopropa[c]cyclohepten-6-one oxime, mp 201° (ex. MeOH, dried at 110°/0.1 mm). The NMR spectrum in CDCl3 -DMSO-d6 : a singlet at δ10.9 (1H), multiplet at 6.9-7.6 (8H), multiplet at 2.1-2.6 (2H) and multiplet at 1.3-1.8 (2H). Anal. Calcd. for C16H13NO: C, 81.46; H, 5.57; N, 5.95. Found: C, 81.48; H, 5.68; N, 6.08. Mass spec.: Calcd. for C16H13NO: 235.0996. Found: 235.0997.

reactant | 1,1a,6,10b-tetrahydrodibenzo[a,e]cyclopropa[c]cyclohepten-6-one | 0.03 mole, 6.6 g | C1C2C3=C(C(C4=C(C21)C=CC=C4)=O)C=CC=C3 | C16H12O
reactant | hydroxylamine hydrochloride | 0.12 mole, 8.4 g | Cl.NO
solvent | pyridine | 120 ml | N1=CC=CC=C1 | C5H5N
product | 1,1a,6,10b-Tetrahydrodibenzo[a,e]cyclopropa[c]cyclohepten-6-one Oxime | C1C2C3=C(C(C4=C(C21)C=CC=C4)=NO)C=CC=C3 | C16H13NO
